US05356897
To a solution of 2-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazolo[1,5-a]pyrimidine (480 mg) in dry tetrahydrofuran (15 ml) was added acetyl chloride (0.89 ml) dropwise under ice cooling. The mixture was stirred at ambient temperature for 1 hour and to the mixture was added a solution of methyl magnesium bromide in tetrahydrofuran (1 mole solution, 12.42 ml) under ice cooling. The mixture was stirred at ambient temperature for 2 hours and to the mixture was added an aqueous saturated sodium bicarbonate solution. The separated oil was extracted with dichloromethane and the solution was washed with brine, dried and concentrated in vacuo. The residue was purified by column chromatography on silica gel to give 3-(1-acetyl-1,2-dihydro-2-methylpyridin-4-Yl)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyrimidine (327 mg).

reactant | 2-(4-fluorophenyl)-3-(pyridin-4-yl)pyrazolo[1,5-a]pyrimidine | 480 mg | FC1=CC=C(C=C1)C1=NN2C(N=CC=C2)=C1C1=CC=NC=C1 | C17H11FN4
reactant | acetyl chloride | 0.89 ml | C(C)(=O)Cl | C2H3ClO
reactant | methyl magnesium bromide | C[Mg]Br
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mole, 12.42 ml | O1CCCC1 | C4H8O
product | 3-(1-acetyl-1,2-dihydro-2-methylpyridin-4-Yl)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyrimidine | 327 mg | C(C)(=O)N1C(C=C(C=C1)C=1C(=NN2C1N=CC=C2)C2=CC=C(C=C2)F)C | C20H17FN4O
